Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Quinolones / ciprofloxacin / Levaquin / amiodarone / captopril
 
Attending: ___.
 
Chief Complaint:
tachypnea
 
Major Surgical or Invasive Procedure:
Bronchoscopy ___

 
History of Present Illness:
___ y/o male with tracheostomy and PEG, severe COPD, HFpEF, 
atrial arrhythmias s/p cardioversionx2 in ___ and ___, 
currently on coumadin, obesity s/p laparoscopic band surgery. He 
presents from ___ with tachypnea.

He had a prolonged hospitalization at ___ ___ thru ___ 
for attempted EP ablation complicated by an oropharyngeal bleed. 
During this hospitalization he developed coagulase negative 
Staphylococcus bacteremia and was also treated for HCAP with 
vancomycin, cefepime and metronidazole. He ultimately required 
tracheostomy and PEG placement on ___. Purulent secretions were 
noted on bronchoscopy on ___, although cultures had no growth, 
and he treated with an 8 day course of meropenem (___). 
The hospitalization was also notable for unsuccessful EP 
ablation, persistent afib requiring
cardioversion, and acute kidney injury.

He was then readmitted to ___ (MICU Orange) ___ thru 
___ for sepsis, thought to be a pulmonary source 
(Pseudomonas grew on BAL culture). He was discharged on 
vancomycin, cefepime, and metronidazole. His hospital course was 
complicated by chronic respiratory failure, thought to be due to 
his PNA and also dCHF/fluid overload. He was discharged to ___ 
___.

On day of this current presentation to ___, he had been weaned 
to  pressure support and trialed trach mask but was noted to be 
more tachypnic. Returning to ___ mode did not resolve the 
tachypnea. He was given alprazolam, trach was rinsed with 
saline, and bronchodilators were given, all without improvement 
in symptoms. He was brought to the ___ ED for further 
evaluation. Per his wife, the patient has been doing well at the 
___, improving with ___. Over the past 1 wwek he has been on 
pressure support for ___ hours daily. The day of presentation 
was the first time he had tried the trach mask.

He otherwise denies fever/chills, other respiratory distress, 
increased secretions, chest pain, abdominal pain, nausea, 
vomiting. He has a known DVT in his left UE and is on coumadin.

 
Past Medical History:
1.  Chronic obstructive pulmonary disease. PFT's ___ FEV1 

0.68, 22% predicted., DLCO 25% predicted FEV1/FVC 44, 66% 
predicted. Impression FVC severely reduced, DLCO mode reduced. 
VEry severe obstructive defect with moderate gas exchange. 
Coexisting restrictive ventilatory defect
2.  Obstructive sleep apnea on CPAP.
3.  Obesity.
4.  Status post gastric banding ___ years ago with 135 pound
weight loss.
5.  Paroxysmal atrial fibrillation, previously treated with
amiodarone, currently on aspirin only. Intolerant to amiodarone.
6.  Status post pulmonary vein isolation and atrial flutter
ablation in ___ at ___.
7.  History of cardiomyopathy in the setting of atrial
fibrillation with an ejection fraction of 45% in ___, with
subsequent normalization of ejection fraction after AF ablation.
8.  Cardiac MRI at ___ in ___ demonstrating hypertrophy and late gadolinium enhancement 
in LV. Chronic presence of anterior T wave inversions.
9.  S/p EPS at ___ in ___ for SVT with failure to induce any
arrhythmia. Spontaneously converted at the beginning of the
procedure. Mapping showed an intact CTI line. 
10. Atypical flutter with rapid ventricular rates noted on 
recent ECGs. 
11.  Heart failure with preserved ejection fraction.  Diagnosed
formally in the right heart catheterization in ___ 
with an elevated pulmonary capillary wedge pressure of 22 and
progressive shortness of breath and leg swelling.
12. GERD
13. s/p MVA and rib fx- pneumothorax in ___
14. Anxiety
15. Depression
16. Sinusitis and rhinitis
 
Social History:
___
Family History:
Mother with history of breast cancer.  No family
history of stroke, hypertension, hyperlipidemia, diabetes
mellitus, early coronary artery disease or sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM

Vitals: 99.2 82  100/54  100% (CMV 420 / 22 / 5 / 50%)  
GENERAL: Alert but sleepy, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Rhonchi throughout, with significant upper airway sounds 
CV: Regular rhythm with frequent ectopy, normal S1 S2, no murmur
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness. PEG tube site clean.
EXT: Warm, well perfused. Significant edema in upper and lower 
extremities. LUE PICC site clean.

DISCHARGE PHYSICAL EXAM

Vitals T 98.9 P 89 BP 100/62 RR 29 Sat 100% (trach mask FiO2 
40%)
GENERAL: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM
CV: RRR, normal S1/S2, no murmur
Lungs: Coarse breath sounds throughout
ABD: Soft, nontender, nondistended, normoactive bowel sounds
EXT: WWP with 1+ pitting edema. LUE PICC site clean and intact
 
Pertinent Results:
ADMISSION LABS
___ 10:35PM BLOOD WBC-10.7* RBC-2.37* Hgb-7.7* Hct-24.3* 
MCV-103* MCH-32.5* MCHC-31.7* RDW-17.2* RDWSD-64.9* Plt ___
___ 10:35PM BLOOD Neuts-83* Bands-1 Lymphs-13* Monos-3* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-8.99 AbsLymp-1.39 
AbsMono-0.32 AbsEos-0.00 AbsBaso-0.00
___ 11:03PM BLOOD ___ PTT-40.8* ___
___ 10:35PM BLOOD Glucose-77 UreaN-23* Creat-0.8 Na-135 
K-3.9 Cl-92* HCO3-31 AnGap-16
___ 10:35PM BLOOD ___ Temp-36.9 pO2-40* pCO2-53* 
pH-7.47* calTCO2-40* Base XS-12 Intubat-INTUBATED
___ 10:35PM BLOOD Lactate-2.0

DISCHARGE LABS
___ 06:15AM BLOOD WBC-11.5* RBC-2.22* Hgb-7.0* Hct-23.1* 
MCV-104* MCH-31.5 MCHC-30.3* RDW-17.0* RDWSD-64.4* Plt ___
___ 06:15AM BLOOD Glucose-98 UreaN-16 Creat-0.8 Na-138 
K-3.5 Cl-97 HCO3-33* AnGap-12
___ 06:15AM BLOOD Calcium-8.4 Phos-3.9 Mg-2.0
___ 06:15AM BLOOD Vanco-32.7*

IMAGING
CXR ___
Tracheostomy tube again noted as well as the left arm access 
PICC line.  The tip of the PICC line resides at the junction of 
the brachiocephalic and SVC.  Cardiomegaly is re- demonstrated.  
Subtle lower lung opacities may reflect the presence of small 
effusions and atelectasis, cannot exclude pneumonia/ aspiration. 
 No overt evidence for edema.  No large pneumothorax is seen.  
Multiple old left rib deformities are again seen. 

CXR ___
As compared to the previous examination, no relevant change is 
seen.  Mild bilateral basal areas of opacities.  Old left-sided 
rib fractures. Moderate cardiomegaly persists.  No relevant 
change in position of the tracheostomy tube. 

ECG ___
Probable atrial fibrillation with moderate ventricular response 
of 77 beats per minute. Early R wave transition. Non-specific ST 
segment flattening. Borderline low limb lead voltage. Compared 
to the previous tracing of ___ the ventricular rate is slower 
and the suggestion of ischemic ST-T wave changes is no longer 
appreciated. 

MICROBIOLOGY
Urine culture ___: yeast
BAL ___: No organisms on gram stain; No growth to date on 
culture
Blood cultures NGTD
 
Brief Hospital Course:
___ y/o male with tracheostomy and PEG, severe COPD, HFpEF, 
atrial arrhythmias s/p cardioversionx2 in ___ and ___, 
currently on coumadin, obesity s/p laparoscopic band surgery. He 
presents from LTAC with tachypnea.

# Respiratory failure: Patient presented from LTAC with 
tachypnea in setting of being weaned from pressure support to 
trach mask. Here, he was put on CMV with significant clinical 
improvement. Respiratory failure was thought most likely 
secondary to rapid weaning from ventilator with contribution of 
volume overload (BNP 7000). Infection was considered but he 
remained afebrile without purulent sputum. CXR with no 
infiltrate. He was transitioned to pressure support, given 
outpatient lasix and metolazone and diuresed approximately 1.5 
L. He underwent bronchoscopy which showed frothy fluid 
suggestive of pulmonary edema without any purulence or plugging; 
BAL cultures are no growth to date. At discharge patient was 
again weaning from pressure support to trach T-piece and 
tolerating this well.
-please monitor weights and fluid status; uptitrate lasix as 
necessary
-use t-piece for trach mask trials as tolerated
-use ET-tube suction catheter for extra long trach

# Upper extremity DVT: Patient on warfarin for DVT of left 
cephalic vein noted ___. Occlusive proximal left cephalic 
vein thrombus. On admission INR was 3.6 and warfarin was held. 
At discharge INR was 3.6.
-Please restart warfarin when INR is subtherapeutic
-Please start subcutaneous heparin for prophylaxis if warfarin 
continues to be held

# Paroxysmal atrial fibrillation: Patient in sinus rhythm or 
with wandering atrial pacemaker throughout this admission. Home 
metoprolol tartrate 50 mg q8h was continued. Warfarin was held 
in setting of supratherapeutic INR and pending ___ procedure.

# Diastolic heart failure: Patient continued on outpatient 
furosemide 40 mg daily and metolazone 2.5 mg daily with diuresis 
of 1.5 L.
 
# History of coag negative staph from blood cultures. Patient on 
vancomycin ___ through ___ per infectious disease note. He was 
continued on vancomycin in house. Of note vancomycin level was 
32 on ___ and thus dose was held.
-please restart vanc AM of ___ at 1g Q24H and recheck trough 
before third dose.

# Anxiety and depression: Continued outpatient venlafaxine and 
lamotrigine.

Transitional issues:
#INR 3.6 on ___: holding coumadin, please restart when INR <3
#Vanc trough 32 on AM of ___. Vanc dose held. Restart at 1g 
Q24H on ___ in the AM. Recheck trough before 3rd dose.
#Please monitor weight and fluid status and uptitration lasix 
prn
#Please continue weaning to trach mask as tolerated
#Respiratory recommends using a T piece as opposed to trach mask 
for weaning, and to use ET tube suction catheter, as his trach 
tube is extra long. 
#Acetylcysteine added for mucolysis

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen (Liquid) 650 mg PO Q4H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH PRN wheeze, shortness of 
breath 
3. TraZODone 25 mg PO/NG QHS:PRN insomnia 
4. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
5. Aquaphor Ointment 1 Appl TP TID:PRN skin 
6. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID skin 
7. Digoxin 0.125 mg PO EVERY OTHER DAY 
8. Pantoprazole 40 mg PO Q12H 
9. Venlafaxine 75 mg PO TID 
10. senna 8.8 mg/5 mL oral QHS:PRN constipation 
11. Furosemide 40 mg PO/NG DAILY 
12. Metoprolol Tartrate 50 mg PO Q8H 
13. budesonide 0.5 mg/2 mL inhalation BID 
14. Ipratropium-Albuterol Neb 1 NEB NEB BID 
15. Miconazole Powder 2% 1 Appl TP TID 
16. potassium chloride 40 mEq/15 mL oral DAILY 
17. LaMOTrigine 50 mg PO DAILY 
18. Warfarin 6.5 mg PO DAILY16 
19. Metolazone 2.5 mg PO DAILY 
20. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
21. Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO QID:PRN Gi 
upset 
22. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
23. lactobacillus acidoph-L.bulgar 1 million cell oral BID 
24. Vancomycin 1000 mg IV Q 12H 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q4H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH PRN wheeze, shortness of 
breath 
3. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
4. Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO QID:PRN Gi 
upset 
5. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
6. Digoxin 0.125 mg PO EVERY OTHER DAY 
7. Furosemide 40 mg PO DAILY 
8. LaMOTrigine 50 mg PO DAILY 
9. Metolazone 2.5 mg PO DAILY 
10. Metoprolol Tartrate 50 mg PO Q8H 
11. Miconazole Powder 2% 1 Appl TP TID 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. senna 8.8 mg/5 mL oral QHS:PRN constipation 
14. TraZODone 25 mg PO QHS:PRN insomnia 
15. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID skin 
16. Vancomycin 1000 mg IV Q 12H 
17. Venlafaxine 75 mg PO TID 
18. Aquaphor Ointment 1 Appl TP TID:PRN skin 
19. budesonide 0.5 mg/2 mL inhalation BID 
20. Ipratropium-Albuterol Neb 1 NEB NEB BID 
21. lactobacillus acidoph-L.bulgar 1 million cell oral BID 
22. Pantoprazole 40 mg PO Q12H 
23. potassium chloride 40 mEq/15 mL oral DAILY 
24. Acetylcysteine 20% ___ mL NEB Q4H:PRN secretions 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic respiratory failure
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Dr. ___,

___ were admitted to ___ for difficulty breathing. We 
suctioned your trach and gave ___ time to rest on the vent, and 
___ improved. We now feel ___ are ready to return to ___ 
___.

Sincerely,
Your ___ team
 
Followup Instructions:
___